US07678820B2
To a solution of 2-(4-{5-[4-fluoro-3-(trifluoromethyl)phenyl]-1,2,4-oxadiazol-3-yl}-1H-indol-1-yl)acetamide (100 mg) and 2-propanol (35 μl) in DMF (3 ml) was added 60% NaH (12 mg) at 0° C., followed by stirring at room temperature for 9 hours. The reaction solution was added with water (5 ml) to complete the reaction, and extracted with as a mixed solvent of chloroform:CH3OH (8:2). The organic layer was washed with saturated brine, dried over anhydrous MgSO4, and then filtered, and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (chloroform:CH3OH=98:2 to 93:7), and crystallized with diethyl ether to obtain 2-(4-{5-[4-isopropoxy-3-(trifluoromethyl)phenyl]-1,2,4-oxadiazol-3-yl}-1H-indol-1-yl)acetamide (25 mg) as a pale yellow solid.

reactant | 2-(4-{5-[4-fluoro-3-(trifluoromethyl)phenyl]-1,2,4-oxadiazol-3-yl}-1H-indol-1-yl)acetamide | 100 mg | FC1=C(C=C(C=C1)C1=NC(=NO1)C1=C2C=CN(C2=CC=C1)CC(=O)N)C(F)(F)F | C19H12F4N4O2
reactant | 2-propanol | 35 μl | CC(C)O | C3H8O
reactant | NaH | 12 mg | [H-].[Na+]
reactant | water | 5 ml | O | H2O
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | 2-(4-{5-[4-isopropoxy-3-(trifluoromethyl)phenyl]-1,2,4-oxadiazol-3-yl}-1H-indol-1-yl)acetamide | 25 mg | C(C)(C)OC1=C(C=C(C=C1)C1=NC(=NO1)C1=C2C=CN(C2=CC=C1)CC(=O)N)C(F)(F)F | C22H19F3N4O3
